US04451673
The vinyl triphenyl silane was reacted with 10% excess of diphenyl phosphine. To maintain a homogeneous reaction mixture, a temperature of 80° C. and cyclohexane solvent were employed. After the ususal u.v. initiated addition, the reaction mixture was allowed to cool to room temperature. This resulted in the crystallization of the triphenylsilylethyl diphenyl phosphine adduct. To obtain it in a pure form, the adduct was filtered and recrystallized from a four to one mixture of cyclohexane and toluene. A white crystalline product having the properties shown in Table I was obtained.

reactant | vinyl triphenyl silane | C(=C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H18Si
reactant | diphenyl phosphine | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
solvent | cyclohexane | C1CCCCC1 | C6H12
product | triphenylsilylethyl diphenyl phosphine | C1(=CC=CC=C1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)CCP(C1=CC=CC=C1)C1=CC=CC=C1 | C32H29PSi
